US04940710
1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(4-methyl-2-thienyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid
A mixture of 10.92 g of 2-(4-methyl-2-thienyl)piperazine and 5.38 g of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in 30 ml of pyridine was heated at reflux under argon for 18 hours, then allowed to cool and the solvent removed. The residue was triturated with methanol and ether, then filtered and dried, giving 2 g of the desired product, mp 230° C.

reactant | 2-(4-methyl-2-thienyl)piperazine | 10.92 g | CC=1C=C(SC1)C1NCCNC1 | C9H14N2S
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 5.38 g | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 1-Ethyl-6-fluoro-1,4-dihydro-7-[3-(4-methyl-2-thienyl)-1-piperazinyl]-4-oxo-3-quinolinecarboxylic acid | 2 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CC(NCC1)C=1SC=C(C1)C)F)=O)C(=O)O | C21H22FN3O3S
